US04307094
0.1 mol of 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid was dissolved in 500 ml of dioxan or dichloromethane. 12 ml of concentrated sulphuric acid were added and the mixture was then treated with 500 ml of isobutene. After stirring at room temperature for 4 days, the mixture was diluted with water and extracted with ether. The ether extracts were washed with 10% sodium carbonate solution, dried over magnesium sulphate and evaporated to give tert.butyl 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate of melting point 87°-88° C.

reactant | 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 0.1 mol | ClCCN1C(N2N(CC=CC2C(=O)O)C1=O)=O | C9H10ClN3O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 500 ml | C=C(C)C | C4H8
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert.butyl 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | ClCCN1C(N2N(CC=CC2C(=O)OC(C)(C)C)C1=O)=O | C13H18ClN3O4
